US06680313B2
The procedure of Synthesis Example 2a) was repeated, except that 2.91 g of 7-iodoimidazo[5,1-b]thiazole and 4.91 g of S-(trifluoromethyl)dibenzothiophenium trifluoromethanesulfonate were used as the starting compounds. Thus, 590 mg of 7-trifluoromethylthioimidazo[5,1-b]thiazole was prepared.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.91 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | S-(trifluoromethyl)dibenzothiophenium trifluoromethanesulfonate | 4.91 g | FC(S(=O)(=O)[O-])(F)F.FC([S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)(F)F
product | 7-trifluoromethylthioimidazo[5,1-b]thiazole | 590 mg | FC(SC=1N=CN2C1SC=C2)(F)F | C6H3F3N2S2
